US07034034B2
trans-4-(Aminomethyl)cyclohexane carboxylic acid (15.2 g, 0.097 mol) was dissolved in a 2N NaOH solution (96.5 mL, 2 equivalents). The solution was brought to 10° C., benzenesulfonyl chloride (17.1 g, 0.097 mol) was added dropwise and then the mixture was stirred overnight at room temperature. The mixture was diluted with water, the solution was washed with ether, and then the aqueous portion was acidified with 12N HCl to give an oily precipitate. The precipitate was extracted with CH2Cl2, and the extracts were dried (Na2SO4) and concentrated under reduced pressure to give trans-4-(Benzenesulfonylamino-methyl)-cyclohexanecarboxylic acid as a white solid.

reactant | trans-4-(Aminomethyl)cyclohexane carboxylic acid | 0.097 mol, 15.2 g | NC[C@@H]1CC[C@H](CC1)C(=O)O | C8H15NO2
reactant | NaOH | 2N, 96.5 mL, 2 equivalents | [OH-].[Na+]
reactant | benzenesulfonyl chloride | 0.097 mol, 17.1 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | water | O | H2O
product | trans-4-(Benzenesulfonylamino-methyl)-cyclohexanecarboxylic acid | C1(=CC=CC=C1)S(=O)(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O | C14H19NO4S
